US07482350B2
Step 2. Preparation of 2-(2,6-diethylphenyl)-5-((5-isopropyl-2-methylphenoxy)methyl)-4-methyl-6-(1 ,2,3,6-tetrahydropyridin-4-yl)pyrimidine
To a solution of tert-butyl 4-(2-(2,6-diethylphenyl)-5-((5-isopropyl-2-methylphenoxy)methyl)-6-methylpyrimidin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate (741 mg, 1.3 mmol) in anhydrous CH2Cl2 (2 mL) at 0° C. is added TFA (2 mL). The mixture is then stirred a room temperature for 16 h. After removal of the solvent and excess of TFA under reduced pressure, the residue is neutralized with sat. NaHCO3, and extracted with CH2Cl2. The extracts are dried over anhydrous MgSO4, concentrated and purified by silica gel column chromatography to provide the desired product. [mass expected (469.7); mass found (M+1: 470.6)].

reactant | tert-butyl 4-(2-(2,6-diethylphenyl)-5-((5-isopropyl-2-methylphenoxy)methyl)-6-methylpyrimidin-4-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.3 mmol, 741 mg | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)C1=CCN(CC1)C(=O)OC(C)(C)C)COC1=C(C=CC(=C1)C(C)C)C)C | C36H47N3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,6-diethylphenyl)-5-((5-isopropyl-2-methylphenoxy)methyl)-4-methyl-6-(1 ,2,3,6-tetrahydropyridin-4-yl)pyrimidine | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)C)COC1=C(C=CC(=C1)C(C)C)C)C=1CCNCC1 | C31H39N3O
